US07060827B2
In a manner similar to the preparation of N2-N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidineamine, the reaction of 2,4-dichloro-5-fluoropyrimidine with 4-trifluoromethylaniline gave N2,N4-bis(4-trifluoromethylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.06 (bs, 1H), 7.75 (d, 2H, J=9 Hz), 7.67 (d, 2H, J=9 Hz), 7.63 (d, 2H, J=9 Hz), 7.54 (d, 2H, J=9 Hz), 7.19 (bs, 1H), 6.96 (s, 1H); 19F NMR (CDCl3): δ −17598 (s, 3F), −17676 (s, 3F), −46549 (s, 1F); HPLC: 85% pure.

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
product | N2,N4-bis(4-trifluoromethylphenyl)-5-fluoro-2,4-pyrimidinediamine | FC(C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)C(F)(F)F)F)(F)F | C18H11F7N4
